US04764522
12.0 g of N-(2-acetaminoethyl)-2-pyridine- carboxamide were suspended in 100 ml of alcohol and 116 ml of 2N hydrochloric acid and the suspension was heated to reflux overnight. The reaction mixture was thereafter concentrated under reduced pressure, the solid residue (13.4 g) was boiled up with methanol, cooled, suction filtered and dried. There was obtained N-(2-aminoethyl)-pyridine-2-carboxamide dihydrochloride as white crystals, m.p. 262° (dec.).

reactant | N-(2-acetaminoethyl)-2-pyridine- carboxamide | 12.0 g | N(C(=O)C)CCNC(=O)C1=NC=CC=C1 | C10H13N3O2
reactant | hydrochloric acid | 2N, 116 ml | Cl | ClH
product | N-(2-aminoethyl)-pyridine-2-carboxamide dihydrochloride | Cl.Cl.NCCNC(=O)C1=NC=CC=C1 | InChI=1S/C8H11N3O.2ClH/c9-4-6-11-8(12)7-3-1-2-5-10-7;;/h1-3,5H,4,6,9H2,(H,11,12);2*1H
